US08541421B2
N-(2-cyano-3-hydroxyphenylcarbamoyl)benzamide
Prepared as in Example 53a from 2-amino-6-hydroxybenzonitrile and benzoyl isocyanate as an off-white solid (166 mg, 46%). 1H NMR (400 MHz, DMSO-d6) δ6.76 (d, J=8.4 Hz, 1H), 7.46 (t, J=8 Hz, 1H), 7.54 (t, J=8 Hz, 2H), 7.66-7.73 (m, 2H), 8.04-8.06 (d, J=8 Hz, 2H), 11.24 (s, 1H), 11.30 (s, 1H), 11.42 (s, 1H). MS 281 (MH+).

reactant | 2-amino-6-hydroxybenzonitrile | NC1=C(C#N)C(=CC=C1)O | C7H6N2O
reactant | benzoyl isocyanate | 166 mg | C(C1=CC=CC=C1)(=O)N=C=O | C8H5NO2
product | N-(2-cyano-3-hydroxyphenylcarbamoyl)benzamide | C(#N)C1=C(C=CC=C1O)NC(=O)NC(C1=CC=CC=C1)=O | C15H11N3O3
